US07683064B2
6-Dimethylamino-2H-isoquinolin-1-one (39 mg, 0.21 mmol), cuprous iodide (8.0 mg, 0.041 mmol), and potassium carbonate (29 mg, 0.21 mmol) were deposited in sealed vessel. 3 mL DMSO and 1,3-dibromobenzene (98 mg, 0.42 mmol) were added. Argon was bubbled through the mixture for 2 minutes and the lid was tightly closed. This was heated at 150° C. for 5 hours. The resulting mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by flash chromatography (25% ethyl acetate/hexanes) to yield 2-(3-Bromo-phenyl)-6-dimethylamino-2H-isoquinolin-1-one (45 mg, 0.13 mmol). MS (ESI) 345.0 (M+H)+.

reactant | 6-Dimethylamino-2H-isoquinolin-1-one | 0.21 mmol, 39 mg | CN(C=1C=C2C=CNC(C2=CC1)=O)C | C11H12N2O
reactant | potassium carbonate | 0.21 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromobenzene | 0.42 mmol, 98 mg | BrC1=CC(=CC=C1)Br | C6H4Br2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 2-(3-Bromo-phenyl)-6-dimethylamino-2H-isoquinolin-1-one | 0.13 mmol, 45 mg | BrC=1C=C(C=CC1)N1C(C2=CC=C(C=C2C=C1)N(C)C)=O | C17H15BrN2O
